US04207234
1-(1-Carboxy-2-methylpropyl)-3-phenylacetamido-2-azetidinone (1.52 g.) and N,N-dimethylaniline (2.15 g.) were suspended in methylene chloride (12 ml.), and to the suspension was added trimethylsilyl chloride (0.88 g.). The solution was stirred for 30 minutes at ambient temperature and cooled to -50° C. Phosphorus pentachloride (1.1 g.) was added to the solution and the solution was stirred for 2 hrs. (the reaction temperature was elevated to about -30° C. during the stirring.). The solution was cooled to -50° C., and n-butyl alcohol (1.85 g.) was added to the solution, and then the solution was stirred for 2 hrs. (in this time, the reaction temperature was elevated to about -30° C.). The solution was cooled again to -50° C., and a solution preparing by dissolving sodium bicarbonate (1.3 g) in water (15 ml.), was added to the solution (in this time, the reaction temperature was elevated to about -25° C., and the solution indicated about pH 3). The solution was adjusted to pH 4 with sodium bicarbonate, and then the aqueous layer was separated out and washed with ether. The solution was evaporated to dryness under reduced pressure, keeping the temperature of the solution under 25° C. To the residue obtained was added isopropyl alcohol (15 ml.), and the mixture was filtered to obtain an insoluble material and a filtrate. The filtrate was evaporated to dryness under reduced pressure. This operation was repeated twice to give colorless powdery 3-amino-1-(1-carboxy-2-methylpropyl)-2-azetidinone (0.3 g.). These insoluble materials in isopropyl alcohol obtained above were combined and dissolved in a small amount of water, and the solution was adjusted to pH 2.5 with 1 N-hydrochloric acid. The aqueous solution was evaporated to dryness under reduced pressure at 25° C., and the residue obtained was treated with isopropyl alcohol in the similar manner as described above to recover an object compound (0.13 g.). Total yield was 0.43 g. This product was treated in a conventional manner to give its salt of D-camphor-10-sulfonic acid, and the salt was recrystallized from a mixture of acetone and ether to give D-camphor-10-sulfonic acid salt of the object compound. Mp 178° to 183° C.

reactant | 1-(1-Carboxy-2-methylpropyl)-3-phenylacetamido-2-azetidinone | 1.52 g | C(=O)(O)C(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C16H20N2O4
reactant | N,N-dimethylaniline | 2.15 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | trimethylsilyl chloride | 0.88 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | Phosphorus pentachloride | 1.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium bicarbonate | 1.3 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | water | 15 ml | O | H2O
solvent | isopropyl alcohol | 15 ml | C(C)(C)O | C3H8O
solvent | n-butyl alcohol | 1.85 g | C(CCC)O | C4H10O
product | 3-amino-1-(1-carboxy-2-methylpropyl)-2-azetidinone | 0.3 g | NC1C(N(C1)C(C(C)C)C(=O)O)=O | C8H14N2O3
